US07205306B2
3-(7-Bromo-5-methoxy-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-[2-(methylthio)ethyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-[2-(methylthio)ethyl]-2(1H)-pyrazinone and 7-bromo-5-methoxyindoline hydrochloride as the starting materials. 1H NMR (300 MHz, CDCl3): δ 6.93 (d, J=2.5 Hz, 1 H), 6.88 (s, 1 H), 6.79 (d, J=2.5 Hz, 1 H), 4.36 (t, J=7.7 Hz, 2 H), 4.05 (t, J=7.0 Hz, 2 H), 3.78 (s, 3 H), 3.10 (t, J=7.5 Hz, 2 H), 2.90 (t, J=7.0 Hz, 2 H), 2.17 (s, 3 H); HRMS (CI) calcd for C16H17N3O2SBrCl (M+): 428.9913; found m/z 428.9899.

reactant | 3,5-dichloro-1-[2-(methylthio)ethyl]-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)CCSC)=O | C7H8Cl2N2OS
reactant | 7-bromo-5-methoxyindoline hydrochloride | Cl.BrC=1C=C(C=C2CCNC12)OC
product | 3-(7-Bromo-5-methoxy-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-[2-(methylthio)ethyl]-2(1H)-pyrazinone | BrC=1C=C(C=C2CCN(C12)C=1C(N(C=C(N1)Cl)CCSC)=O)OC | C16H17BrClN3O2S
